US07238724B2
A mixture of (4′-cyano-4-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-carbamic acid benzyl ester (240 mg), ammonium formate (300 mg), and Pd/C (20 mg) in isopropyl alcohol (8 mL) was heated at 80° C. for 30 min. The reaction mixture was cooled and filtered through diatomaceous earth to provide 4-amino-4-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-carbonitrile (150 mg) as a foam. MS (CI) m/z 217 (M+H)+; 1H NMR (300 MHz, MeOH-d4) δ 8.54 (s, 1H), 8.06 (d, 1H), 6.89 (d, 1H), 4.02-3.85 (m, 2H), 3.40-3.32 (m, 2H), 1.81-1.78 (m, 4H), 1.35 (s, 3H).

reactant | (4′-cyano-4-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-carbamic acid benzyl ester | 240 mg | C(C1=CC=CC=C1)OC(NC1(CCN(CC1)C1=NC=CC(=C1)C#N)C)=O | C20H22N4O2
reactant | ammonium formate | 300 mg | C(=O)[O-].[NH4+]
solvent | isopropyl alcohol | 8 mL | C(C)(C)O | C3H8O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 4-amino-4-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-carbonitrile | 150 mg | NC1(CCN(CC1)C1=NC=CC(=C1)C#N)C | C12H16N4
